US06982348B2
To a solution of zinc chloride (9.0 g, 66.15 mmol) in diethyl ether (200 ml) was added sodium borohydride (5.0 g, 132 mmol), and the mixture was stirred at room temperature for 30 min. The insoluble material was filtered off to give a solution of zinc borohydride in diethyl ether. To a solution of ethyl 3-(6-chloro-2-pyridyl)-3-oxo-2-((4-(trifluoromethyl)phenyl)methyl)propionate (12.7 g, 33.1 mmol) in diethyl ether (100 ml) was dropwise added slowly at −20° C. the solution of zinc borohydride in diethyl ether prepared in advance. The reaction solution was stirred at −20° C. for 30 min., and 1N hydrochloric acid was added to quench the reaction. Water (200 ml) was added and the mixture was extracted with ethyl acetate (300 ml×2). The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to give ethyl 3-(6-chloro-2-pyridyl)-3-hydroxy-2-((4-(trifluoromethyl)phenyl)methyl)propionate (4.1 g, 32%, (2RS,3RS) form: (2RS,3SR)form=1:1, crude) as a colorless oil.

reactant | ethyl 3-(6-chloro-2-pyridyl)-3-oxo-2-((4-(trifluoromethyl)phenyl)methyl)propionate | 33.1 mmol, 12.7 g | ClC1=CC=CC(=N1)C(C(C(=O)OCC)CC1=CC=C(C=C1)C(F)(F)F)=O | C18H15ClF3NO3
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | Water | 200 ml | O | H2O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
catalyst | zinc borohydride | [BH4-].[Zn+2].[BH4-]
product | ethyl 3-(6-chloro-2-pyridyl)-3-hydroxy-2-((4-(trifluoromethyl)phenyl)methyl)propionate | 4.1 g, 32% | ClC1=CC=CC(=N1)C(C(C(=O)OCC)CC1=CC=C(C=C1)C(F)(F)F)O | C18H17ClF3NO3
